US05981541
1-(2'-Nitro-4',5'-dimethoxybenzylidene)-6,7-dimethoxy-2-tetralone (12a).
Prepared from 6,7-Dimethoxy-2-tetralone and 6-nitroveratraldehyde; mp 65-66° C.; IR (Nujol): 2855,1720, 1540; 1H NMR: δ2.71 (2H, t), 2.98 (2H t), 3.35 (3H, s), 3.66 (3H, s), 3.89 (3H, s), 3.97 (3H,s), 6.41 (1H, s), 6.62 (1H, s), 6.73 (1H, s), 7.74 (1H, s), 7.91 (1H, s); 13C NMR: δ28.4, 39.7, 56.5, 56.6, 56.8, 56.9, 107.7, 108.6, 111.2, 113.1, 128.1, 129.3, 130.3, 132.2, 133.3, 148.9, 149.0, 150.0, 153.3, 200.7.

reactant | 6,7-Dimethoxy-2-tetralone | COC=1C=C2CCC(CC2=CC1OC)=O | C12H14O3
reactant | 6-nitroveratraldehyde | [N+](=O)([O-])C1=CC(=C(C=C1C=O)OC)OC | C9H9NO5
product | 1-(2'-Nitro-4',5'-dimethoxybenzylidene)-6,7-dimethoxy-2-tetralone | [N+](=O)([O-])C1=C(C=C2C(CCC3=CC(=C(C=C23)OC)OC)=O)C=C(C(=C1)OC)OC | C21H21NO7
